US04041150
A sample of dextrin was converted by known means to dextrin anthranilate by reaction with isatoic anhydride. The amino group of the anthranilyl radical was diazotized and the diazonium salt was coupled with a keratin hydrolyzate prepared by the partial hydrolysis of hog hair with phosphoric acid. The derivative product, an anthranilyl dextrin keratin polypeptide, was recovered by dialysis to remove salts, followed by lyophilization. Samples of wool, treated with 8% ammonium thioglycolate solution containing the dextrin derivative as a solute, for 15 to 30 minutes, followed by oxidation with 1.5% sodium bromate solution, washing with water and drying with acetone, showed no visual differences, but a portion thus treated gave a distinct carbohydrate test with anthrone reagent, while a control sample prepared by adsorption of the dextrin derivative from an aqueous 9.2 pH buffer solution showed a negative test. Thus, the carbohydrate definitely was coupled to the wool by the described procedure.

reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | anthrone | C1=CC=CC=2CC3=CC=CC=C3C(C12)=O | C14H10O
